US04839379
1-(4-Acetylaminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
A solution of 2.4 ml of acetic anhydride in 10 ml of tetrahydrofuran is added dropwise to a solution of 4 g of 1-(4-aminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione and 120 mg of dimethylaminopropane in 150 ml of tetradrofuran, and the mixture is stirred overnight at room temperature. Then 0.5 ml of ethanol is added to the reaction mixture, which is stirred for 1 hour and filtered. The crystals so obtained are washed with tetrahydrofuran and ether, affording white crystals of the title compound with a melting point above 230° C. and Rf=0.3 in thin-layer silica gel plates in the system methylene chloride/methanol (10:1).

reactant | acetic anhydride | 2.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-aminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 4 g | NC1=CC=C(C=C1)C12C(NC(C2C1)=O)=O | C11H10N2O2
reactant | dimethylaminopropane | 120 mg | CN(C)CCC | C5H13N
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-Acetylaminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | C(C)(=O)NC1=CC=C(C=C1)C12C(NC(C2C1)=O)=O | C13H12N2O3
